US09102688B2
2-Benzylsulfanyl-pyrazine (Intermediate 435)
In a similar fashion using route 38 general procedure 92, 2-chloropyrazine (1 g, 8.73 mmol), K2CO3 (1.80 g 13.1 mmol), benzylmercaptan (1.62 g 13.1 mmol) and DMSO (8 ml) at 150° C. for 4 h in sealed tube gave the title compound (805 mg, 45%) after purification by column chromatography with n-hexane/EtOAc (97:3) as the eluent.

reactant | 2-chloropyrazine | 8.73 mmol, 1 g | ClC1=NC=CN=C1 | C4H3ClN2
reactant | K2CO3 | 13.1 mmol, 1.80 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzylmercaptan | 13.1 mmol, 1.62 g | C(C1=CC=CC=C1)S | C7H8S
solvent | DMSO | 8 ml | CS(=O)C | C2H6OS
product | 2-Benzylsulfanyl-pyrazine | 805 mg, 45% | C(C1=CC=CC=C1)SC1=NC=CN=C1 | C11H10N2S
